US05843963
2-(4-Methoxyphenyl)-3-[N-(4-benzyloxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene (2.43 g, 4.77 mmol) was dissolved in 50 mL of 1:1 EtOH/EtOAc containing 5% con. HCl. To this solution was added 1.0 g of 5% Pd/C. The resulting mixture was hydrogenated at 40 psi for 4 h. The mixture was then filtered through Celite to remove the catalyst. The filtrate was concentrated in vacuo to a semi-solid. Chromatography (SiO2, CHl3) provided 1.32 g (83%) of 2-(4-methoxyphenyl)-3-[N-(4-hydroxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene as an amber foam. 1H NMR (DMSO-d6) δ (doubling due to amide rotamers) 9.53 and 9.36 (s, 1H), 7.62-6.51 (m, 11 H), 3.78 and 3.58 (s, 6H), 2.01 and 1.76 (s, 3H). FD mass spec: 419. Anal. Calcd. for C24H21NO4S.O 0.19 CHCl3 : C, 65.71; H, 4.83; N, 3.17. Found: C, 65.80; H, 4.70; N, 3.01.

reactant | 2-(4-Methoxyphenyl)-3-[N-(4-benzyloxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene | 4.77 mmol, 2.43 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)N(C(C)=O)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C31H27NO4S
reactant | HCl | Cl | ClH
solvent | EtOH EtOAc | 50 mL | CCO.CCOC(=O)C
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 2-(4-methoxyphenyl)-3-[N-(4-hydroxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene | 1.32 g, 83% | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)N(C(C)=O)C2=CC=C(C=C2)O | C24H21NO4S
